US07855297B2
To a solution of 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.72 g) in dimethylformamide (5 mL) were added triethylamine (0.23 mL) and cyclohexanecarbonyl chloride (0.22 mL), and the mixture was stirred at room temperature for one day. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography to give 5-benzyloxy-N-{[1-(cyclohexylcarbonyl)pyrazol-4-yl]methyl}-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.67 g). By the reaction and treatment of this compound in the same manner as in Example 139, N-{[1-(cyclohexanecarbonyl)pyrazol-4-yl]methyl}-5-hydroxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.23 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.72 g | Cl.C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C
reactant | triethylamine | 0.23 mL | C(C)N(CC)CC | C6H15N
reactant | cyclohexanecarbonyl chloride | 0.22 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 5-benzyloxy-N-{[1-(cyclohexylcarbonyl)pyrazol-4-yl]methyl}-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.67 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C=1C=NC(=CC1)C(C)C)CC=1C=NN(C1)C(=O)C1CCCCC1 | C37H42N4O3
